US06869954B2
Preparation of 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(1-piperazinyl)methyl-2H-pyridazin-3-one dihydrochloride
To a solution of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(3-fluoro-4-methylphenyl)-2-isobutyl-2H-pyridazin-3-one (115 mg, 0.25 mmol) in ethyl acetate (2 mL) was added a 4 mol/L solution (2 mL) of hydrochloric acid in ethyl acetate, and the mixture was stirred at 50° C. for 1 hour. The temperature of the reaction mixture was allowed to drop back to room temperature, and then, diethyl ether was added. The precipitate was collected to yield the title compound as a colorless crystalline powder (81.1 mg, 75.0%).

reactant | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(3-fluoro-4-methylphenyl)-2-isobutyl-2H-pyridazin-3-one | 0.25 mmol, 115 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)C)F)CC(C)C)=O | C25H35FN4O3
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(1-piperazinyl)methyl-2H-pyridazin-3-one dihydrochloride | 81.1 mg, 75.0% | Cl.Cl.FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCNCC1 | InChI=1S/C20H27FN4O.2ClH/c1-14(2)12-25-20(26)17(13-24-8-6-22-7-9-24)11-19(23-25)16-5-4-15(3)18(21)10-16;;/h4-5,10-11,14,22H,6-9,12-13H2,1-3H3;2*1H
